US06965048B2
To a cooled (0° C.) and stirred solution of 0.39 g (0.87 mmol) of trans-3-[(4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarbonyl)-methyl-amino]-propionic acid ethyl ester in 2.6 mL of THF was added within 5 min 2.6 mL (2.6 mmol, 3 eq) of aqueous 1M LiOH and the solution was stirred at RT for 2.5 h. The reaction was partitioned between Et2O (×3)/aqueous 10% KHSO4. The organic phase was washed with 10% NaCl, dried over Na2SO4 and evaporated to yield 0.38 g (quantitative) of trans-3-[(4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarbonyl)-methyl-amino]-propionic acid, MS: 425 (MH+, 1Cl).

reactant | trans-3-[(4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarbonyl)-methyl-amino]-propionic acid ethyl ester | 0.87 mmol, 0.39 g | C(C)OC(CCN(C)C(=O)[C@@H]1CC[C@H](CC1)CCN(C)C(=O)OC1=CC=C(C=C1)Cl)=O | C23H33ClN2O5
reactant | LiOH | 1M | [Li+].[OH-]
solvent | THF | 2.6 mL | C1CCOC1 | C4H8O
product | trans-3-[(4-{2-[(4-chloro-phenoxycarbonyl)-methyl-amino]-ethyl}-cyclohexanecarbonyl)-methyl-amino]-propionic acid | 0.38 g | ClC1=CC=C(OC(=O)N(CC[C@@H]2CC[C@H](CC2)C(=O)N(CCC(=O)O)C)C)C=C1 | C21H29ClN2O5
